US08293786B2
To a stirred solution of cannabidiol (125.8 mg, 0.4 mmol) and (t-butyldimethylsilyloxy)acetic acid (112.9 mg, 0.51 mmol) in dry dichloromethane (1 mL) was added of 4-dimethylaminopyridine (6.2 mg, 0.03 mmol) followed by N,N′-dicyclohexylcarbodiimide (123.8 mg, 0.6 mmol). The mixture was stirred at ambient temperature for 1 h. Additional amounts of the acid (26.6 mg) and N,N′-dicyclohexylcarbodiimide (31 mg) were added and stirring was continued for 1 h. Mixture was diluted with hexane (2 mL), filtered, and concentrated. The crude product was purified by preparative reverse phase HPLC (C8 column) with acetonitrile-water to afford cannabidiol (t-butyldimethylsilyloxy)acetate as an oil.

reactant | cannabidiol | 0.4 mmol, 125.8 mg | CCCCCC=1C=C(C(=C(C1)O)[C@@H]2C=C(CC[C@H]2C(=C)C)C)O | C21H30O2
reactant | (t-butyldimethylsilyloxy)acetic acid | 0.51 mmol, 112.9 mg | [Si](C)(C)(C(C)(C)C)OCC(=O)O | C8H18O3Si
reactant | N,N′-dicyclohexylcarbodiimide | 0.6 mmol, 123.8 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N,N′-dicyclohexylcarbodiimide | 31 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.03 mmol, 6.2 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | hexane | 2 mL | CCCCCC | C6H14
product | cannabidiol (t-butyldimethylsilyloxy)acetate | CCCCCC=1C=C(C(=C(C1)O)[C@@H]2C=C(CC[C@H]2C(=C)C)C)O.[Si](C)(C)(C(C)(C)C)OCC(=O)[O-] | InChI=1S/C21H30O2.C8H18O3Si/c1-5-6-7-8-16-12-19(22)21(20(23)13-16)18-11-15(4)9-10-17(18)14(2)3;1-8(2,3)12(4,5)11-6-7(9)10/h11-13,17-18,22-23H,2,5-10H2,1,3-4H3;6H2,1-5H3,(H,9,10)/p-1/t17-,18+;/m0./s1
